US07705028B2
10d) 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylic acid
A solution of methyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate (0.122 g, 0.22 mmol) in THF (2.2 mL) was placed in a microwave reaction tube. Methanol (1.1 mL) was added, followed by 1N sodium hydroxide (0.33 mL, 0.33 mmol). The tube was sealed and heated in a microwave reactor to 100° C. for 600 seconds. The solution was neutralized and concentrated. Water was added and the mixture was filtered. The resulting solid was dried in a vacuum oven at 45° C. with P2O5 to yield the title compound (0.095 g, 77% as 0.4 tetrahydrofuran) 1H NMR (DMSO-d6): δ 13.3-13.1 (broad s, approximately 1H), 9.05 (s, 1H), 8.14-8.12 (m, 2H), 8.04 (d, J=9 Hz, 1H), 7.82-7.79 (m, 1H), 7.63-7.52 (m, 6H), 6.92 (d, J=9 Hz, 2H), 4.87 (s, 2H), 3.46 (septet, J=7 Hz, 1H), 1.33 (d, J=7 Hz, 6H). HRMS C30H23NO4Cl2 m/z 532.1082 (M+H)+Cal; 532.1074 (M+H)+Obs.

reactant | methyl 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylate | 0.22 mmol, 0.122 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C=CC=C(C2=C1)C(=O)OC)C(C)C | C31H25Cl2NO4
reactant | Methanol | 1.1 mL | CO | CH4O
reactant | sodium hydroxide | 0.33 mmol, 1N, 0.33 mL | [OH-].[Na+]
solvent | THF | 2.2 mL | C1CCOC1 | C4H8O
product | 7-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-1-naphthalenecarboxylic acid | 0.095 g, 77% | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C1=CC=C2C=CC=C(C2=C1)C(=O)O)C(C)C | C30H23Cl2NO4
